US07759379B2
3-[3-(Azetidin-3-ylamino)-4-trifluoromethoxyphenyl]-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione; Compound with Trifluoroacetic Acid
394 mg (1 mmol) of 3-(3-amino-4-trifluoromethoxyphenyl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione were dissolved in 1 ml of DMF, 166 mg (1.2 mmol) of potassium carbonate and 413 mg (1.3 mmol) of 1-(diphenylmethyl)-3-azetidine methanesulphonate were added, and the mixture was stirred at 80° C. for 5 h. For workup, the mixture was added to ice-water, extracted with CH2C12, dried and concentrated. The remaining residue was purified by means of preparative HPLC (RP18, acetonitrile/water, 0.1% TFA). The intermediate obtained in this way was dissolved in 3 ml of methanol, admixed with 10 mg of 5% Pd/C and 50 mg (0.8 mmol) of ammonium formate, and heated under reflux for 2 h. The residue remaining after filtration and evaporation was purified by means of preparative HPLC (RP18, acetonitrile/water, 0.1% TFA).

reactant | 3-(3-amino-4-trifluoromethoxyphenyl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione | 1 mmol, 394 mg | NC=1C=C(C=CC1OC(F)(F)F)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O | C18H17F3N4O3
reactant | potassium carbonate | 1.2 mmol, 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium formate | 0.8 mmol, 50 mg | C(=O)[O-].[NH4+]
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methanol | 3 ml | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 3-[3-(Azetidin-3-ylamino)-4-trifluoromethoxyphenyl]-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione; Compound with Trifluoroacetic Acid | FC(C(=O)O)(F)F.N1CC(C1)NC=1C=C(C=CC1OC(F)(F)F)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O | InChI=1S/C21H22F3N5O3.C2HF3O2/c1-20(2)18(30)29(19(31)28(20)12-13-5-7-25-8-6-13)15-3-4-17(32-21(22,23)24)16(9-15)27-14-10-26-11-14;3-2(4,5)1(6)7/h3-9,14,26-27H,10-12H2,1-2H3;(H,6,7)
